Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
neck pain, cervical stenosis 
 
Major Surgical or Invasive Procedure:
___ C5-6 ACDF 
 
History of Present Illness:
Mr. ___ is a ___ M with history of prior cervical fusion 
who presented to the spine clinic with complaints of back pain, 
difficulty walking and neck pain. He also had intermittent 
paresthesias in his hands but denied numbness or weakness or 
pain following the radicular distribution. He ambulates with a 
cane. He has tried pain medication as well as physical therapy 
with no improvement in his symptoms. On exam there appeared to 
be signs of spinal cord dysfunction. His grip weakness was 
attributed to spinal cord compression seen on his imaging. He 
presents for elective C5-C6 ACDF. 

 
Past Medical History:
NECK PAIN 
SHOULDER PAIN 
HYPERCHOLESTEROLEMIA 
HYPERTENSION 
PROSTATE CANCER 
LEG PAIN 

PSHx:
Transurethral prostatectomy
SPINAL FUSION 
 
Social History:
___
Family History:
NC 
 
Physical Exam:
ON DISCHARGE: 
=================
Exam:

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  PERRL                
EOM: [x]Full [ ]Restricted

Speech Fluent: [x]Yes [ ]No   
Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
Right5---------------->        4+     4+

IPQuadHamATEHLGast

[x]Sensation intact to light touch

Wound: 
          [x]Clean, dry, intact 

 
Pertinent Results:
Please refer to ___ for pertinent lab and imaging results. 
 
Brief Hospital Course:
Mr. ___ is a ___ male with history spine funsion who 
presensted to clinic with neck pain and tingling in his arm. He 
presented for elective C5-C6 ACDF. 

#Neck pain/cervical stenosis
Patient presented to pre-op area on ___, was evaluated by 
anesthesia and taken to the OR for C5-C6 ACDF. Procedure was 
uncomplicated. Please refer to formal op-report in OMR for 
further intra-operative details. He tolerated the procedure well 
and was extubated in the OR. He was transferred to the PACU for 
recovery where he remained neurologically stable, and was then 
transferred to the floor for continued care. Post-op C-spine 
xrays were obtained on POD1 which showed good placement of 
hardware and normal post operative changes. Patient was 
mobilized and physical therapy was consulted who recommended 
rehab. 

#Dispo
The patient was discharged to acute rehab on ___.
 
Medications on Admission:
Lovastatin 40mg daily
Tramadol ER 100mg daily 
Hydrochlorothiazide 12.5mg daily 
Bicalutamide 50mg daily
Gabapentin 600mg TID 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Atorvastatin 10 mg PO QPM  
3.  Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN sore throat  
4.  Docusate Sodium 100 mg PO BID  
5.  Heparin 5000 UNIT SC BID  
6.  Ondansetron 4 mg IV Q8H:PRN nausea  
7.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain  
8.  Sodium Chloride 0.9%  Flush ___ mL IV Q8H and PRN, line 
flush  
9.  Gabapentin 600 mg PO TID  
10.  Hydrochlorothiazide 12.5 mg PO DAILY 
This med was held, your blood pressure was low. Please follow up 
with your PCP about restarting it.  
11.  bicalutamide 50 mg oral DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
cervical stenosis 
neck pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

___

Surgery

• Your dressing may come off on the second day after surgery. 

• Your incision is closed with dissolvable sutures underneath 
the skin and steri strips. You do not need suture removal. Do 
not remove your steri strips, let them fall off.

• Please keep your incision dry for 72 hours after surgery.

• Please avoid swimming for two weeks.

• Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity

• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.

• You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.

• No driving while taking any narcotic or sedating medication. 

• No contact sports until cleared by your neurosurgeon. 

• Do NOT smoke. Smoking can affect your healing and fusion.

Medications

• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 

• Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… for 2 weeks.

• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

• It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:

• Severe pain, swelling, redness or drainage from the incision 
site. 

• Fever greater than 101.5 degrees Fahrenheit

• New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___